US04434076
Allyl benzyl ethanol di(hydrogenated-tallow) ammonium chloride (abbreviated ABEHT)
A 2-liter autoclave was charged with benzyl ethanol hydrogenated-tallow amine (632.2 gm.; 1.5 mol), 133.9 gm. allyl chloride, 18.1 gm. allyl bromide, 160 gm. sodium bicarbonate, and 175 ml isopropyl alcohol. The mixture was allowed to react at 100° C. overnight. An aliquot was removed and found to contain 61.2% amine. The apparent slow reaction rate was due to a leak in the autoclave. When the problem was corrected, an additional 133.9 gm. of allyl chloride and 18.1 gm. allyl bromide was added. The reaction as allowed to go overnight. An aliquot was removed and analyzed. It contained 16.1% amine and 0.4% amine HCl. An additional 36 gm. of allyl bromide was added. The following day, a sample was removed, analyzed, and found to contain 7% amine and 0.5% amine HCl. Allyl bromide (15 gm.) and 25 gm. of sodium bicarbonate were added and the reaction was continued overnight. Analyses of an aliquot showed there to be 0.0% amine HCl and 5.2% amine. The autoclave was charged with methyl chloride to finish the quaternization reaction. Final analysis showed an Effective gram molecular weight of 780.7.

reactant | benzyl ethanol | 1.5 mol, 632.2 gm | C(C1=CC=CC=C1)C(C)O | C9H12O
reactant | allyl chloride | C(C=C)Cl | C3H5Cl
reactant | allyl bromide | C(C=C)Br | C3H5Br
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | isopropyl alcohol | 175 ml | C(C)(C)O | C3H8O
product | Allyl benzyl ethanol | C(C=C)C(C)(O)CC1=CC=CC=C1 | C12H16O
